US07414061B2
a) 3-[4-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid ethyl ester
As described for Example 3, 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (2.25 g, 10.0 mmol) was converted, using 3-ethoxycarbonylphenylboronic acid (2.89 g, 15 mmol), instead of 4-fluorophenylboronic acid, which after purification by chromatography (SiO2, heptane:ethyl acetate=50:50) afforded the title compound (1.9 g, 52%) which was obtained as a light yellow solid. MS: m/e=374.1[M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 10.0 mmol, 2.25 g | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C13H11N3O
reactant | 3-ethoxycarbonylphenylboronic acid | 15 mmol, 2.89 g | C(C)OC(=O)C=1C=C(C=CC1)B(O)O | C9H11BO4
product | 3-[4-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid ethyl ester | 1.9 g, 52% | C(C)OC(C1=CC(=CC=C1)N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1)=O | C22H19N3O3
